US08258130B2
A solution of 2-cyanothiazole (1.55 g, 14.2 mmol) in MeOH (12 mL) is treated with N-acetylcysteine (234 mg, 1.42 mmol), ammonium acetate (1.5 g, 18.5 mmol) and heated in a microwave at 120° C. for 15 min. The mixture is then treated with 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester (3.2 g, 17.0 mmol) and KOt-Bu (2.2 g, 20 mmol), and heated in a microwave at 120° C. for an additional 15 min. The mixture is then treated with a solution of KOH (1.2 g, 20 mmol) in H2O (5 mL) and heated at reflux for 1 h. The mixture is neutralized with concentrated aqueous HCl. The precipitate is collected by filtration and dried to afford 4-methyl-2-thiazol-2-yl-pyrimidine-5-carboxylic acid (1.95 g, 62%). MS: 222 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 13.77 (s. OH, 1H), 9.18 (s, 1H), 8.13 (d, 1H), 8.07 (d, 1H), 2.81 (s, 3H).

reactant | 2-cyanothiazole | 14.2 mmol, 1.55 g | C(#N)C=1SC=CN1 | C4H2N2S
reactant | N-acetylcysteine | 1.42 mmol, 234 mg | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
reactant | ammonium acetate | 18.5 mmol, 1.5 g | C(C)(=O)[O-].[NH4+]
reactant | 2-dimethylaminomethylene-3-oxo-butyric acid ethyl ester | 17.0 mmol, 3.2 g | C(C)OC(C(C(C)=O)=CN(C)C)=O | C9H15NO3
reactant | KOt-Bu | 20 mmol, 2.2 g | CC(C)(C)[O-].[K+]
reactant | KOH | 20 mmol, 1.2 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | MeOH | 12 mL | CO | CH4O
solvent | H2O | 5 mL | O | H2O
product | 4-methyl-2-thiazol-2-yl-pyrimidine-5-carboxylic acid | 1.95 g, 62% | CC1=NC(=NC=C1C(=O)O)C=1SC=CN1 | C9H7N3O2S
